US07259183B2
Preparation of 4-cyclobutyl-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 830 mg of 1-bromo-4-cyclobutyl-benzene (3.93 mmol), 2.7 ml of a 1.6 molar solution of n-BuLi in hexane (4.32 mmol) and 605 μl of DMF (7.86 mmol). The isolated residue was purified by flash column chromatography (5:95 EtOAc/cyclohexane) to give 422 mg of 4-cyclobutyl-benzaldehyde (67%) as a colorless liquid. 1H NMR (CDCl3, 300 MHz): δ 1.89 (m, 1H), 1.97-2.26 (m, 3H), 2.40 (m, 2H), 3.63 (quint, J=8.5 Hz, 1H), 7.36 (d, J=8.0 Hz, 2H), 7.81 (d, J=8.0 Hz, 2H), 9.97 (s, 1H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 1-bromo-4-cyclobutyl-benzene | 3.93 mmol, 830 mg | BrC1=CC=C(C=C1)C1CCC1 | C10H11Br
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 4.32 mmol | CCCCCC | C6H14
reactant | DMF | 7.86 mmol, 605 μl | CN(C)C=O | C3H7NO
product | 4-cyclobutyl-benzaldehyde | 422 mg, 67% | C1(CCC1)C1=CC=C(C=O)C=C1 | C11H12O
